US08404679B2
c) N-{(3RS,4SR)-4-(4-Chloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-4-methoxy-N-methyl-3-trifluoromethyl-benzamide
To a solution of N-[(3RS,4SR)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide (200 mg, 0.484 mmol) in DMF (2 mL) was added 1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carboxylic acid (113 mg, 0.533 mmol), O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (221 mg, 0.581 mmol) and N,N-diisopropyl ethyl amine (498 μl, 2.90 mmol). The solution was stirred for 3 h at ambient temperature. After diluting with ethyl acetate (15 mL) the solution was washed twice with water (15 mL) and brine (10 mL). The aqueous layers were extracted with ethyl acetate (15 mL) and dried over sodium sulfate. Purification by chromatography (SiO2, heptane:ethyl acetate:methanol=50:50:0 to 0:90:10) afforded the title compound (210 mg, 72%) as a light brown oil. MS m/e: 606.2 [M]+.

reactant | N-[(3RS,4SR)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | 0.484 mmol, 200 mg | ClC1=CC=C(C=C1)C1C(CNC1)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C20H20ClF3N2O2
reactant | 1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carboxylic acid | 0.533 mmol, 113 mg | CC1(CC1)C(=O)N1CCC(CC1)C(=O)O | C11H17NO3
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.581 mmol, 221 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropyl ethyl amine | 2.90 mmol, 498 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | N-{(3RS,4SR)-4-(4-Chloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | 210 mg, 72% | ClC1=CC=C(C=C1)C1C(CN(C1)C(=O)C1CCN(CC1)C(=O)C1(CC1)C)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C31H35ClF3N3O4
